US07205302B2
1-methylamino-4-(methoxymethoxy)indane
To a solution of 1.00 g of 4-(methoxymethoxy)-1-indanone in 10 ml of ethanol, 2.8 ml of 40% methylamine (methanol solution) and 367 mg of sodium cyanoborohydride were added. While stirring at room temperature, 0.55 ml of acetic acid was added dropwise and the mixture was heated at reflux for 4 hours. The reaction solution was air-cooled, combined with water and then extracted with ethyl acetate. After drying over anhydrous magnesium sulfate, the solvent was evaporated. The residue was purified by silica gel column chromatography to obtain 0.61 g of the desired compound as a deep green oily substance.

reactant | 4-(methoxymethoxy)-1-indanone | 1.00 g | COCOC1=C2CCC(C2=CC=C1)=O | C11H12O3
reactant | sodium cyanoborohydride | 367 mg | C(#N)[BH3-].[Na+]
reactant | acetic acid | 0.55 ml | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | methylamine | 2.8 ml | CN | CH5N
product | 1-methylamino-4-(methoxymethoxy)indane | 0.61 g | CNC1CCC2=C(C=CC=C12)OCOC | C12H17NO2
